US07834028B2
2-[2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethyl]-isoindole-1,3-dione (80 mg, 0.233 mmol) was dissolved in ethanol (2 ml) followed by the addition of an 1M solution of hydrazine in methanol (0.34 ml, 0.34 mmol). The reaction mixture was stirred at 90° C. for 16 h, cooled to rt and DCM (3 ml) was added and the suspension was filtered. The filtrate was concentrated under reduced pressure to give 40 mg (80%) 2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethylamine. LC-MS: tR=0.58 min; [M+H]+=216.38.

reactant | 2-[2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethyl]-isoindole-1,3-dione | 0.233 mmol, 80 mg | C(C1=CC=CC=C1)N1N=C(C=C1CCN1C(C2=CC=CC=C2C1=O)=O)C | C21H19N3O2
reactant | hydrazine | NN | H4N2
reactant | methanol | 0.34 mmol, 0.34 ml | CO | CH4O
reactant | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(2-benzyl-5-methyl-2H-pyrazol-3-yl)-ethylamine | 40 mg, 80% | C(C1=CC=CC=C1)N1N=C(C=C1CCN)C | C13H17N3
